US07038064B2
A total of 2 ml of 30% by weight hydrogen peroxide aqueous solution was added dropwise to a stirred mixture of 1.12 g (10 mmol) of 5-hexenoic acid, 25 mg (0.1 mmol) of tungstic acid, and 15 ml of t-butyl alcohol at room temperature, followed by stirring at 70° C. for 8 hours. As a result, δ-hydroxymethyl-δ-valerolactone was produced in a yield of 72%.

reactant | hydrogen peroxide | OO | H2O2
reactant | 5-hexenoic acid | 10 mmol, 1.12 g | C(CCCC=C)(=O)O | C6H10O2
catalyst | tungstic acid | 0.1 mmol, 25 mg | O[W](=O)(=O)O
solvent | t-butyl alcohol | 15 ml | C(C)(C)(C)O | C4H10O
product | δ-hydroxymethyl-δ-valerolactone | yield of 72% | OCC1CCCC(=O)O1 | C6H10O3
